US05215994
To a mixture of N,N,N'-N'-tetramethylethylenediamine (1.55 ml) and 5-bromo-1-(4-tert-butyldiphenylsilyloxymethylphenyl)pyrrole-2-carbonitrile (3.80 g) was added dropwise n-butyllithium solution (1.6M solution in n-hexane, 5.2 ml) during a period of 20 minutes at -60° C. under nitrogen atmosphere. The mixture was stirred for one hour at the same temperature and then dimethyldisulfide (1 ml) was added therein in one portion. The reaction mixture was allowed to warm to ambient temperature, stirred overnight at the same temperature and then poured into ice water. The separated oil was extracted with ethyl acetate. The organic layer was washed with water, dried, and concentrated in vacuo to give the residue, which was purified by column chromatography on silica gel to yield 1-(4-tert-butyldiphenylsilyloxymethylphenyl)-5-methylthiopyrrole-2-carbonitrile (1.94 g) as a solid.

reactant | 5-bromo-1-(4-tert-butyldiphenylsilyloxymethylphenyl)pyrrole-2-carbonitrile | 3.80 g | BrC1=CC=C(N1C1=CC=C(C=C1)CO[Si](C1=CC=CC=C1)(C1=CC=CC=C1)C(C)(C)C)C#N | C28H27BrN2OSi
reactant | n-butyllithium | 1.6M, 5.2 ml | C(CCC)[Li]
reactant | dimethyldisulfide | 1 ml | CSSC | C2H6S2
product | 1-(4-tert-butyldiphenylsilyloxymethylphenyl)-5-methylthiopyrrole-2-carbonitrile | 1.94 g | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)OCC1=CC=C(C=C1)N1C(=CC=C1SC)C#N | C29H30N2OSSi
